US06235731B1
2) Synthesis of tert-butyl (E)-4-[4-(dimethoxyphosphoryl)-3-oxo-1-butenyl]piperidine-1-carboxylate
To a solution of 13.1 g (106 mM) of dimethyl methylphosphonate in 100 ml of tetrahydrofuran was added 69.2 ml (111 mM) of 1.6M n-butyllithium-hexane dropwise at −78° C. and the mixture was stirred at the prevailing temperature for 10 minutes. To this reaction mixture was added a solution of 14.271 g (50.362 mM) of tert-butyl (E)-4-(2-ethoxycarbonylvinyl)piperidine-1-carboxylate in 100 ml of tetrahydrofuran at −78° C. and the mixture was stirred until the temperature had recovered to room temperature. This reaction mixture was poured in aqueous solution of ammonium chloride and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate:1/1 to ethyl acetate) to provide the title compound.

reactant | dimethyl methylphosphonate | 106 mM, 13.1 g | CP(OC)(OC)=O | C3H9O3P
reactant | tert-butyl (E)-4-(2-ethoxycarbonylvinyl)piperidine-1-carboxylate | 50.362 mM, 14.271 g | C(C)OC(=O)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C | C15H25NO4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-butyl (E)-4-[4-(dimethoxyphosphoryl)-3-oxo-1-butenyl]piperidine-1-carboxylate | COP(=O)(OC)CC(/C=C/C1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H28NO6P
